US06352993B1
Step 2: 6-methoxy-1-methyl-3,4-dihydroisoquinoline
A mixture soultion of polyphosphoric acid (61.4 ml, 0.66 mol) and phosphorouspentoxide(28.0 g, 0.2 mol) was heated to 90° C. N-(3-methoxyphenylethyl) acetamide (63.6 g, 0.33 mol) was added to the mixture solution and then stirred for 2 hours at 110° C. The reaction mixture was poured into ice water, adjusted to alkali with potassium hydroxide, and then extracted with ethyl ether. The extract was dried over anhydrous magnesium sulfate and concentrated under a reduces pressure. The resulting residue was purified by a silica gel column chromatography, using a solution of methanol and dichloromethane (1:20) as a eluent, to give 54.0 g of the titled compound.

reactant | N-(3-methoxyphenylethyl) acetamide | 0.33 mol, 63.6 g | COC=1C=C(C=CC1)CCNC(C)=O | C11H15NO2
reactant | potassium hydroxide | [OH-].[K+]
product | 6-methoxy-1-methyl-3,4-dihydroisoquinoline | 54.0 g | COC=1C=C2CCN=C(C2=CC1)C | C11H13NO
